* source WZMACNIACZ2
R_R1         0 N01253  1k  
X_U6         IN N01253 N00874 N01096 OUT TL061/301/TI
R_R2         N01253 OUT  6.2k  
V_V2         N00874 0 15Vdc
V_V3         0 N01096 15Vdc
V_V4         IN 0 DC 0Vdc AC 1Vac 
