* source WZMACNIACZ1
R_R1         IN N00291  1K  
X_U6         N09876 N00291 N00874 N01096 OUT TL061/301/TI
R_R2         N00291 OUT  68k  
V_V2         N00874 0 15Vdc
V_V3         0 N01096 15Vdc
R_R3         0 N09876  1k  
V_V8         IN 0 DC 0Vdc AC 1Vac 
